US07365061B2
Part I: 1,4-Dihydro-2,3-benzoxathiin 3-oxide
To a stirred solution of 1,2-bis(bromomethyl)benzene (15 g, 56.8 mmol) in N,N-dimethylformamide (100 mL) at 0° C. was added tetrabutylammonium bromide (3.66 g, 11.4 mmol), followed by sodium hydroxymethane sulfinate dihydrate (17.5 g, 113.6 mmol) in one portion. The resulting suspension was stirred at 0° C. for 7 h under nitrogen and then at room temperature for 10 h. Water (250 mL) was added and after 30 min the reaction mixture was diluted with diethyl ether. The organic layer was washed with water twice. The aqueous layer was extracted with diethyl ether twice more. The combined organic layers were dried over anhydrous magnesium sulfate and evaporated under vacuum to yield the title compound (purity 80%). 13C NMR (400 MHz, CDCl3) δ 133.8, 130.0, 128.6, 127.9, 125.9, 125.7, 63.0, 57.0. 1H NMR (400 MHz, CDCl3) δ 7.20-7.41 (m, 4H), 5.31 (d, J=13.6 Hz, 1H), 4.97 (d, J=13.6 Hz, 1H), 4.42 (d, J=15.4 Hz, 1H), 3.56 (d, J=15.4 Hz, 1H). MS [M+H]+, 169.

reactant | 1,2-bis(bromomethyl)benzene | 56.8 mmol, 15 g | BrCC1=C(C=CC=C1)CBr | C8H8Br2
reactant | sodium hydroxymethane sulfinate dihydrate | 113.6 mmol, 17.5 g | O.O.OCS(=O)[O-].[Na+]
reactant | Water | 250 mL | O | H2O
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium bromide | 11.4 mmol, 3.66 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1,4-Dihydro-2,3-benzoxathiin 3-oxide | C1OS(CC2=C1C=CC=C2)=O | C8H8O2S
